US07977351B2
4H-Thieno[2,3-c]furan-6-one
A solution of 3-hydroxymethyl-thiophene-2-carboxylic acid (25 mg, 0.15 mmol) in dichloromethane (4 ml) and triethylamide (1.5 mL) is treated with p-toluenesulfonyl chloride (50 mg, 0.26 mmol) and the reaction mixture is stirred at room temperature overnight. The reaction mixture is concentrated and the product is purified by chromatography (silica gel, ethylacetate/hexane) to give the title compound. This material was used directly in the preparation of Example 70.

reactant | 3-hydroxymethyl-thiophene-2-carboxylic acid | 0.15 mmol, 25 mg | OCC1=C(SC=C1)C(=O)O | C6H6O3S
reactant | p-toluenesulfonyl chloride | 0.26 mmol, 50 mg | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
solvent | dichloromethane | 4 ml | ClCCl | CH2Cl2
product | 4H-Thieno[2,3-c]furan-6-one | S1C=CC2=C1C(OC2)=O | C6H4O2S
